US05698579
Benzaldehyde (3.94 mL, 38.8 mmol) and (S)-α-methylbenzylamine (5.0 mL, 38.8 mmol, 96% ee.) were allowed to react according to the procedure of Example 86 to yield 7.88 g (96%) of N-benzyl-(S)-α-methylbenzylamine as an oil contaminated with ~5% of benzyl alcohol and (S)-α-methylbenzylamine: 1H NMR (DMSO-6, 250 MHz) δ7.15-7.45 (m, 10H, Ar), 3.69 (q, 1H, J=6.5 Hz), 3.48 (dd, 2H, J1 =13.6 Hz, J2 =20.9 Hz), 2.45 (br s, 1H, NH), 1.26 (d, 3H, J=6.5 Hz, CH3); 13C NMR (DMSO-d6) δ146.0, 141.0, 128.1, 128.0, 127.8, 126.4, 126.3, 56.7, 50.6, 24.5. This mixture was directly used in the next reaction.

reactant | Benzaldehyde | 38.8 mmol, 3.94 mL | C(C1=CC=CC=C1)=O | C7H6O
reactant | (S)-α-methylbenzylamine | 38.8 mmol, 5.0 mL | C[C@@H](C1=CC=CC=C1)N | C8H11N
product | N-benzyl-(S)-α-methylbenzylamine | 7.88 g, 96% | C(C1=CC=CC=C1)N[C@H](C1=CC=CC=C1)C | C15H17N
